US05079246
12-Amino-7-methyl-cyclohepta[5,6]pyrido[2,3-b]indol-1-one (E16)
Also isolated by chromatography was [(3-oxo-1-cyclohepten-1-yl)amino]-1-methyl-1H-indole -3-carbonitrile (D17) (1.30 g, 20%) Rf 0.19 (SiO2, 2:1 dichloromethane:ethyl acetate). This intermediate could be converted to the title compound (E16) using a procedure similar to that described in Description 6.

reactant | [(3-oxo-1-cyclohepten-1-yl)amino]-1-methyl-1H-indole -3-carbonitrile | 1.30 g | O=C1C=C(CCCC1)NC=1N(C2=CC=CC=C2C1C#N)C | C17H17N3O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 12-Amino-7-methyl-cyclohepta[5,6]pyrido[2,3-b]indol-1-one | NC1=C2C(N=C3NC4=CC=CC(C4=C31)=O)=C(C=CC=C2)C | C17H13N3O
